US07723369B2
5-{4-[2-(4′-Bromo-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide (268 mg, 0.4 mmol) was treated as described in general procedure L using 2-(trimethylsilyl)ethoxymethyl chloride (142 μL, 0.8 mmol) to give 5-{4-[2-(4′-bromo-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-2-(2-trimethylsilanyl-ethoxymethyl)-1,2,5-thiadiazolidine-3-one-1,1-dioxide.

reactant | 5-{4-[2-(4′-Bromo-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | 0.4 mmol, 268 mg | BrC1=CC=C(C=C1)C1=CC=C(C=C1)CC=1N(C=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)N1CC(NS1(=O)=O)=O | C30H21BrCl2N4O3S
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 0.8 mmol, 142 μL | C[Si](CCOCCl)(C)C | C6H15ClOSi
product | 5-{4-[2-(4′-bromo-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-2-(2-trimethylsilanyl-ethoxymethyl)-1,2,5-thiadiazolidine-3-one-1,1-dioxide | BrC1=CC=C(C=C1)C1=CC=C(C=C1)CC=1N(C=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)N1CC(N(S1(=O)=O)COCC[Si](C)(C)C)=O | C36H35BrCl2N4O4SSi
